US08053440B2
A mixture of 2,6-dimethyl-phenylamine (0.62 mL, 5.0 mmol), DMSO (100 mL), conc. Aqueous HCl (36.5-38%, 5.0 mL), and dried CuCl2 was stirred at 90° C. under nitrogen for 5 h. The reaction was quenched with water. The pH of the mixture was adjusted to ˜8 using a 10% sodium hydroxide solution. The mixture was extracted with ether (3×100 mL). The solution was dried over Na2SO4 and concentrated to dryness. The resulting brown oil was dissolved in dichloromethane (anhydrous, 20 mL) and N-ethyldiisopropylamine (DIPEA, 1.0 mL, 5.8 mmol) was added. The mixture was cooled to 0° C., acetoxyacetyl chloride (0.8 mL, 7.4 mmol) was added slowly. The mixture was stirred at room temperature under nitrogen for 17 h. The mixture was concentrated to dryness and purified by column chromatography. Acetic acid (4-formyl-2,6-dimethyl-phenylcarbamoyl)-methyl ester was obtained as yellow/beige solid (96 mg). A mixture of acetic acid (4-formyl-2,6-dimethyl-phenylcarbamoyl)-methyl ester (96 mg, 0.38 mmol), 2-amino-4,6-dimethoxy-benzamide (74 mg, 0.38 mmol), p-toluenesulfonic acid monohydrate (21 mg, 0.11 mmol), sodium hydrogensulfite (96 mg, 0.53 mmol) and dimethylacetamide (3 mL) was stirred in a 150° C. oil bath under nitrogen for 17 h. After cooling to room temperature, water (50 mL) was added. The precipitate was filtered off and washed with water. The filtrate was extracted with dichloromethane, dried over Na2SO4, purified by column chromatography, using (1) 5% methanol/dichloromethane, and (2) 10% methanol/dichloromethane as eluents. Acetic acid [4-(5,7-dimethoxy-4-oxo-3,4-dihydroquinazolin-2-yl)-2,6-dimethyl-phenylcarbamoyl]-methyl ester was obtained as a beige solid (70 mg, 43%). Acetic acid [4-(5,7-dimethoxy-4-oxo-3,4-dihydroquinazolin-2-yl)-2,6-dimethyl-phenylcarbamoyl]-methyl ester (70 mg, 0.16 mmol) was dissolved in methanol/dichloromethane (10 mL) and a solution of potassium carbonate (442 mg, 20 mmol) in water was added. The solution was stirred at room temperature for 17 h. 2 N HCl was added to adjust the reaction mixture pH to ˜8. The mixture was then concentrated under reduced pressure. The resulting precipitate was filtered off, washed with water, air-dried, then washed with ether and dried, leaving N-(4-(5,7-dimethoxy-4-oxo-3,4-dihydroquinazolin-2-yl)-2,6-dimethylphenyl)-2-hydroxyacetamide (30 mg, 49%) as a light brown solid. Selected data: MS (ES) m/z: 384.1; MP 190-192° C.

reactant | acetic acid (4-formyl-2,6-dimethyl-phenylcarbamoyl)-methyl ester | 0.38 mmol, 96 mg | C(=O)C1=CC(=C(C(=C1)C)NC(=O)COC(C)=O)C | C13H15NO4
reactant | 2-amino-4,6-dimethoxy-benzamide | 0.38 mmol, 74 mg | NC1=C(C(=O)N)C(=CC(=C1)OC)OC | C9H12N2O3
reactant | p-toluenesulfonic acid monohydrate | 0.11 mmol, 21 mg | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
reactant | sodium hydrogensulfite | 0.53 mmol, 96 mg | S(=O)(O)[O-].[Na+]
solvent | water | 50 mL | O | H2O
solvent | dimethylacetamide | 3 mL | CC(=O)N(C)C | C4H9NO
product | Acetic acid [4-(5,7-dimethoxy-4-oxo-3,4-dihydroquinazolin-2-yl)-2,6-dimethyl-phenylcarbamoyl]-methyl ester | COC1=C2C(NC(=NC2=CC(=C1)OC)C1=CC(=C(C(=C1)C)NC(=O)COC(C)=O)C)=O | C22H23N3O6
